US06239131B1
Preparation of 1-(2-toluoylmethyl)-2-oxo-3-tert-butoxycarbonylamino-5-(2-thenoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
2-Bromo-2′-methylacetophenone (0.51 g), 1N aqueous sodium hydroxide (20 ml), toluene (20 ml) and tetra n-butylammonium bromide (20 mg) were added to 2-Oxo-3-tert-butoxycarbonylamino-5-(2-thenoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (0.80 g), the mixture was stirred at room temperature for 4 hours. The reaction mixture was separated into organic layer and aqueous layer, the aqueous layer was extracted with ethyl acetate, the extract was combined with the former organic layer. The combined extract was successively washed with water and saturated brine, and dried over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography(n-hexane:ethyl acetate=2:1), to thereby obtain 1.02 g of the title compound as colorless amorphous (Yield: 96%).

reactant | 2-Bromo-2′-methylacetophenone | 0.51 g | BrCC(=O)C1=C(C=CC=C1)C | C9H9BrO
reactant | sodium hydroxide | 1N, 20 ml | [OH-].[Na+]
reactant | 2-Oxo-3-tert-butoxycarbonylamino-5-(2-thenoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 0.80 g | O=C1C(CN(C2=C(N1)C=C(C=C2)C)C(C2=CC=CS2)=O)NC(=O)OC(C)(C)C | C20H23N3O4S
catalyst | tetra n-butylammonium bromide | 20 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(2-toluoylmethyl)-2-oxo-3-tert-butoxycarbonylamino-5-(2-thenoyl)-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 1.02 g, Yield: 96% | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(C2=CC=CS2)=O)NC(=O)OC(C)(C)C)=O)C | C29H31N3O5S
